US09428490B2
Ethyl 3-(3,5-bis(trifluoromethyl)phenyl)-3-cyanopropanoate (1.2 g, 1.0 eq.) was dissolved in MeOH (48 mL). Dichlorocobalt hexahydrate (1.68 g, 2.0 eq.) was added and the reaction mixture was cooled to 20° C. NaBH4 (1.98 g, 15 eq.) was added portion wise by maintaining temperature below 30° C. After completion of addition, this reaction mixture was stirred for 18 h at 25° C. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate (25 mL) and water (25 mL). The reaction mixture was filtered through Celite™ and the organic layer was separated, dried over Na2SO4, filtered, and concentrated under reduced pressure to afford 0.65 g of crude product, which after trituration with petroleum ether gave 0.5 g of 4-(3,5-bis(trifluoromethyl)phenyl)pyrrolidin-2-one (Yield 47.61%).

reactant | Ethyl 3-(3,5-bis(trifluoromethyl)phenyl)-3-cyanopropanoate | 1.2 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CC(=O)OCC)C#N)(F)F | C14H11F6NO2
reactant | NaBH4 | 1.98 g, 15 eq. | [BH4-].[Na+]
solvent | MeOH | 48 mL | CO | CH4O
catalyst | Dichlorocobalt hexahydrate | 1.68 g, 2.0 eq. | O.O.O.O.O.O.Cl[Co]Cl
product | 4-(3,5-bis(trifluoromethyl)phenyl)pyrrolidin-2-one | 0.5 g, Yield 47.61% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1CC(NC1)=O)(F)F | C12H9F6NO
